US07378447B2
Biphenyl-4-carboxylic acid (R)-(6-(1-((2-tert-butoxyethyl)methylamino)ethylideneamino)-2(R)-hydroxyindan-1-yl)amide
Dissolve the crude HI salt of (2-tert-butoxyethyl)methyl-(1-methylsulfanylethyl)amine (obtained using the crude HCl salt of 2-tert-butoxyethylamine, referenced in Example 9-1, using the methodology detailed in Example 6-1) (297.1 mg, 0.897 mmol) in 20 mL pyridine and add biphenyl-4-carboxylic acid (R)-(6-amino-2(R)-hydroxyindan-1-yl)amide (290.7 mg, 0.844 mmol). Allow the reaction to stir for 18 hours. Remove the solvent in vacuo and dissolve the residue in methylene chloride and wash with saturated aqueous sodium hydrogen carbonate. Dry the organic layer with magnesium sulfate. Filter and remove the solvent in vacuo to afford 248.7 mg of crude product. Purify the residue by Biotage chromatography (10% MeOH/EtOAc to 25% MeOH/EtOAc) to afford 91.7 mg of the titled product (22% yield). MS (ES): m/z 500.5 (M+H).

reactant | HI | I | HI
reactant | (2-tert-butoxyethyl)methyl-(1-methylsulfanylethyl)amine | C(C)(C)(C)OCCN(C(C)SC)C | C10H23NOS
reactant | HCl | Cl | ClH
reactant | 2-tert-butoxyethylamine | C(C)(C)(C)OCCN | C6H15NO
reactant | biphenyl-4-carboxylic acid (R)-(6-amino-2(R)-hydroxyindan-1-yl)amide | 0.844 mmol, 290.7 mg | NC1=CC=C2C[C@H]([C@@H](C2=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)O | C22H20N2O2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | Biphenyl-4-carboxylic acid (R)-(6-(1-((2-tert-butoxyethyl)methylamino)ethylideneamino)-2(R)-hydroxyindan-1-yl)amide | 91.7 mg, 22% yield | C(C)(C)(C)OCCN(C(C)=NC1=CC=C2C[C@H]([C@@H](C2=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)O)C | C31H37N3O3
